US08975400B2
3-fluoro-4-(3-(trifluoromethyl)phenoxy)benzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4-difluorobenzaldehyde and 3-(trifluoromethyl)phenol.

reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 3-(trifluoromethyl)phenol | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
product | 3-fluoro-4-(3-(trifluoromethyl)phenoxy)benzaldehyde | FC=1C=C(C=O)C=CC1OC1=CC(=CC=C1)C(F)(F)F | C14H8F4O2
